US08124768B2
Preparation 1A: 3-Chloro-N-(diphenylmethylene)pyridin-2-amine
2,3-Dichloropyridine (105.00 g, 710 mmol), Pd(OAc)2 (3.98 g, 17.74 mmol), rac-BINAP (16.57 g, 26.61 mmol), cesium carbonate (346.76 g, 1065 mmol), THF (1.05 L), and benzophenone imine (124.67 mL, 745 mmol) were added to a 2 L CHEMGLASS® Reactor fitted with a mechanical stirrer and reflux condenser. The mixture was heated to reflux with stirring for 18 h. The material was filtered, washed with THF (100 mL). The resulting filtrate was concentrated in vacuo to ⅓ volume and used without further purification. 1H NMR (CDCl3) δ 6.79 (dd, 1H, J=4.6, 7.6 Hz), 7.19-7.60 (m, 9H), 7.79-7.95 (m, 2H), 8.16 (dd, 1H, J=1.5, 5.1 Hz); MS (ESI+) m/z 293.1 (M+H)+.

reactant | 2,3-Dichloropyridine | 710 mmol, 105.00 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | rac-BINAP | 26.61 mmol, 16.57 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1065 mmol, 346.76 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzophenone imine | 745 mmol, 124.67 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
catalyst | Pd(OAc)2 | 17.74 mmol, 3.98 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | THF | 1.05 L | C1CCOC1 | C4H8O
product | 3-Chloro-N-(diphenylmethylene)pyridin-2-amine | ClC=1C(=NC=CC1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H13ClN2
